US09340510B2
(S)-Cyclopropanecarboxylic acid [1-(4-formyl-phenyl)-ethyl]-amide
To 1.95 g (7.89 mmol) 4-[1-(S)-(cyclopropanecarbonyl-amino)-ethyl]-benzoic acid methyl ester in 20 mL THF are added slowly 685 mg (31.6 mmol) lithium borhydride and stirred at 50° C. over night. The reaction is quenched by the addition of a sat. aq. NaHCO3-solution and extracted three times with EtOAc. The organic layers are combined, dried over MgSO4, filtered and the solvent is removed in vacuo.

reactant | 4-[1-(S)-(cyclopropanecarbonyl-amino)-ethyl]-benzoic acid methyl ester | 7.89 mmol, 1.95 g | COC(C1=CC=C(C=C1)[C@H](C)NC(=O)C1CC1)=O | C14H17NO3
reactant | lithium | 31.6 mmol, 685 mg | [Li] | Li
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (S)-Cyclopropanecarboxylic acid [1-(4-formyl-phenyl)-ethyl]-amide | C(=O)C1=CC=C(C=C1)[C@H](C)NC(=O)C1CC1 | C13H15NO2
